US04618678
In a similar manner, diketene was reacted with 1-phenoxy-2-propanol to obtain 1-methyl-2-(phenoxy)ethyl acetoacetate, BP 115°-122° C./0.05-0.1 mm.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | 1-phenoxy-2-propanol | O(C1=CC=CC=C1)CC(C)O | C9H12O2
product | 1-methyl-2-(phenoxy)ethyl acetoacetate | C(CC(=O)C)(=O)OC(COC1=CC=CC=C1)C | C13H16O4
